US04218404
The N-carbobenzoxy-γ-aminobutyryl-taurine obtained as described in Example 2 is dissolved in 10 ml of water. 100 mg of 10% palladium-on-carbon catalyst are added to the solution, and the mixture is hydrogenated for 2 hours. The catalyst is filtered off, and the filtrate is evaporated in vacuo at 35° C. The obtained crude product is crystallized from a 1:10 mixture of water and acetone. 0.798 g (76%) of γ-aminobutyryl-taurine are obtained: m.p.: 247° C.

reactant | N-carbobenzoxy-γ-aminobutyryl-taurine | C(=O)(OCC1=CC=CC=C1)N(CCS(=O)(=O)O)C(CCCN)=O | C14H20N2O6S
solvent | water | 10 ml | O | H2O
catalyst | palladium-on-carbon | 100 mg | [Pd] | Pd
product | γ-aminobutyryl-taurine | 0.798 g, 76% | NCCCC(=O)NCCS(=O)(=O)O | C6H14N2O4S
